US09193692B2
B. N-(3,5-Dibromopyrazin-2-yl)-2-iodoacetamide
To a solution of 2-chloro-N-(3,5-dibromopyrazin-2-yl)acetamide (3.0 g, 9.11 mmol) in acetone (40 mL) was added sodium iodide (13.65 g, 91 mmol) dissolved in acetone (20 mL). Solution was allowed to stir at ambient temperature for 16 h. Solution was condensed under reduced pressure and diluted with ethyl acetate (500 mL) and washed consecutively with water (5×) to remove the blue color. Organics were dried over magnesium sulfate, filtered and solvent removed under reduced pressure to afford the crude product. The solid was diluted with 10% ethyl acetate in hexanes (40 mL) and sonicated while scraping the sides of the flask. The solution was then heated under a heat gun for 5 min, then cooled while sonicating at ambient temperature. The resulting solid was filtered and washed with additional hexanes and dried under vacuum to afford the title compound (3.0 g, 7.13 mmol, 78% yield). MS (ESI) m/z 420.3 [M−1]+, 422.0 [M+1]+, 424.0 [M+3]+.

reactant | 2-chloro-N-(3,5-dibromopyrazin-2-yl)acetamide | 9.11 mmol, 3.0 g | ClCC(=O)NC1=NC=C(N=C1Br)Br | C6H4Br2ClN3O
reactant | sodium iodide | 91 mmol, 13.65 g | [I-].[Na+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | N-(3,5-Dibromopyrazin-2-yl)-2-iodoacetamide | 7.13 mmol, 3.0 g, 78% yield | BrC=1C(=NC=C(N1)Br)NC(CI)=O | C6H4Br2IN3O
